US04212830
To 0.48 gm of magnesium in a thoroughly dried flask equipped with condensor and magnetic stirrer was added 2 mls of anhydrous tetrahydrofuran and 0.3 ml of butyl chloride. The mixture was stirred and heated at reflux until reaction initiated (approximately 10 minutes). After 5 minutes, portionwise addition of 3.5 gms of 1,1-diethoxy-9-chloro nonane in 10 ml of tetrahydrofuran was begun. When the addition was complete (15 minutes) the mixture was stirred and heated for 2 hours. It was then cooled to 5° C. in an ice bath and 30 gms of a mixture of 3-chloro-1-pentene (approximately 40%) and 1-chloro-2-pentene (approximately 60%) was added all at once. The mixture was heated slowly and stirred, whereupon it became cloudy. Heating was continued at reflux temperature for 2 hours. The mixture was then cooled, poured into 100 ml of 3 N-hydrochloric acid and diluted with 100 ml of tetrahydrofuran and 150 ml of acetone. The resulting solution was stirred and heated for 30 minutes. It was then concentrated on rotary evaporator and extracted twice with 100 mls of hexane. The organic layer was dried over sodium sulphate, evaporated and distilled. The majority distilled at 110° C. at 0.35 torr and yielded 2.11 gms of 11-tetradecenal.

reactant | magnesium | 0.48 gm | [Mg] | Mg
reactant | 1,1-diethoxy-9-chloro nonane | 3.5 gms | C(C)OC(CCCCCCCCCl)OCC | C13H27ClO2
reactant | 3-chloro-1-pentene | ClC(C=C)CC | C5H9Cl
reactant | 1-chloro-2-pentene | ClCC=CCC | C5H9Cl
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | acetone | 150 ml | CC(=O)C | C3H6O
solvent | tetrahydrofuran | 2 mls | O1CCCC1 | C4H8O
solvent | butyl chloride | 0.3 ml | C(CCC)Cl | C4H9Cl
product | 11-tetradecenal | 2.11 gms | C(CCCCCCCCCC=CCC)=O | C14H26O
